US04486588
A stirred solution of phenylacetaldehyde (77.0 g, 0.64 mole) and morpholine (56.0 g, 0.64 mole) in toluene (500 ml) was heated at reflux until the theoretical amount of water was collected in a Dean-Stark trap. The reaction mixture was cooled slightly, and ethyl 4,6-dimethyl-2-oxo-2H-pyran-5-carboxylate (125.0 g, 0.64 mole) was added. The solvent was distilled from the reaction mixture at atmospheric pressure to leave a residue. The residue was then heated at 200° for 2.5 hours. A Dean-Stark trap was used to collect the distilled morpholine. The remaining pot residue was cooled and slurried with a mixture of silica gel (700 g) and methylene chloride (1500 ml) for 45 minutes. The slurry was filtered and the filter cake rinsed with methylene chloride (500 ml). The combined filtrates were evaporated under reduced pressure to leave a thick brown residue. This residue was distilled under reduced pressure to give several fractions. All fractions which contained more than 73% product by gc analysis were combined to give a total of 90.5 g crude ethyl 2,4-dimethyl-[1,1'-biphenyl]-3-carboxylate.

reactant | phenylacetaldehyde | 0.64 mole, 77.0 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | morpholine | 0.64 mole, 56.0 g | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
reactant | ethyl 4,6-dimethyl-2-oxo-2H-pyran-5-carboxylate | 0.64 mole, 125.0 g | CC1=CC(OC(=C1C(=O)OCC)C)=O | C10H12O4
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2,4-dimethyl-[1,1'-biphenyl]-3-carboxylate | 90.5 g | CC1=C(C=CC(=C1C(=O)OCC)C)C1=CC=CC=C1 | C17H18O2
